US05057607
(2R, 3S)-3-Phenylacetylamino-2-[(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester
A 4.00 gram sample (11.7 mmoles) of cis(racemic at 2 and 3 position) 3-amino-2-2-(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester oxalate was dissolved in 40 ml. of deionized water by adjusting the pH to 7.0 with concentrated NH4OH. After readjusting the pH to 6.0 with phosphoric acid, 1.41 grams (9.36 mmoles) of methyl phenylacetate was added and the temperature was maintained at 28° C. Milli-Q water washed Sclavo penicillin G amidase (84 I.U./gram of substrate; 7.18 I.U./mmole of substrate) was added and the reaction was allowed to proceed for four hours. The pH of the reaction was maintained at 6.0 by the addition of 2.5 N NH4OH. The reaction mixture was then filtered through a ground glass filter and the beads were washed successively with methylene chloride and water to remove product. The filtrate and washes were combined and the aqueous layer was extracted several times with methylene chloride. The extract was dried with anhydrous sodium sulfate and evaporated to dryness in vacuo. The residue, which contained 1.78 grams (41.1% yield) of title compound, was purified by semi-preparative HPLC using Waters RCM 25×10 column containing two cartridges of prep Nova-Pak HRC18 with one prep guard Nova-Pak HRC18 eluted with 0.2% trifluoroacetic acid in water/acetonitrile (70/30), to obtain 1.25 grams (28.8% yield) of the title compound.

reactant | 4-oxo-1-azetidine acetic acid, methyl ester oxalate | C(C(=O)O)(=O)O.O=C1CCN1CC(=O)OC
reactant | NH4OH | [NH4+].[OH-]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | methyl phenylacetate | 9.36 mmoles, 1.41 grams | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | NH4OH | 2.5 N | [NH4+].[OH-]
solvent | water | O | H2O
product | (2R, 3S)-3-Phenylacetylamino-2-[(2-furanyl)ethyl]-4-oxo-1-azetidine acetic acid, methyl ester | 1.78 grams, 41.1% yield | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@H](N(C1=O)CC(=O)OC)CCC=1OC=CC1 | C20H22N2O5
